* File     : ESDARF01-1BM2.LIB
* Revision : 1.0
* Date     : February 2014
*
**************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and     *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                                                      *
*                                                                        *
*    (c) 2014 ST Microelectronics. All rights reserved.                  *
*                                                                        *
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan      *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore       *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.        *
*                                                                        *
**************************************************************************


.SUBCKT ESDARF01-1BM2 P1 P2

.MODEL Diode D
+ IS=228.54E-9
+ N=4.6116
+ RS=0.67
+ CJO=3.1E-12
+ M=.1
+ VJ=0.75 
+ ISR=472.60E-9
+ BV=100
+ IBV=100.00E-6
+ TT=5.0000E-9


D_D1 P1 node2 Diode
D_D2 node2 node3 Diode
D_D3 node3 node4 Diode
D_D4 node4 P1 Diode
L_L1 node3 P2 120p

.ENDS
